US05062881
Preparation of Methyl o-{4-isopropyl-4-methyl-1-[(o-nitrophenyl)thio]-5-oxo-2-imidazolin-2-yl}benzoate
A slurry of sodium hydride (0.76 g, 0.019 mol, 60% in mineral oil) and tetrahydrofuran is added dropwise to a 0° C. solution of methyl o-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)benzoate (5.0 g, 0.018 mol) and tetrahydrofuran under a nitrogen atmosphere. After stirring for 1 hour at room temperature, 2-nitrobenzenesulfinyl chloride (3.8 g, 0.020 mol) is added dropwise to the mixture and stirring is continued at room temperature for 72 hours. The reaction mixture is filtered and the filtrate is concentrated in vacuo to give a yellow solid. The solid is chromatographed using silica gel and 10% ethyl acetate in methylene chloride as eluent to yield the title compound as a pale yellow solid (1.08 g, 14%, mp 143°-148° C., identified by IR and NMR spectral analyses.

reactant | sodium hydride | 0.019 mol, 0.76 g | [H-].[Na+]
reactant | methyl o-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)benzoate | 0.018 mol, 5.0 g | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)OC)C=CC=C1)C | C15H18N2O3
reactant | 2-nitrobenzenesulfinyl chloride | 0.020 mol, 3.8 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)Cl | C6H4ClNO3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Methyl o-{4-isopropyl-4-methyl-1-[(o-nitrophenyl)thio]-5-oxo-2-imidazolin-2-yl}benzoate | C(C)(C)C1(N=C(N(C1=O)SC1=C(C=CC=C1)[N+](=O)[O-])C1=C(C(=O)OC)C=CC=C1)C | C21H21N3O5S
